US06054605
2-chloro-3-fluoro-6-trifluoromethylbenzonitrile (Compound No. 33)
To a solution of 50.9 g of 2,3-difluoro-6-trifluoromethylbenzonitrile in 240 ml of dimethyl sulfoxide (DMSO) was added 53.3 g of calcium chloride and the mixture was stirred for 6 hours at a temperature of from 140 to 150° C. After cooling, the reaction mixture was further added with 240 ml water and extracted with 240 ml and 100 ml hexane twice. The organic layer obtained was dried over anhydrous magnesium sulfate, and the solvent therein was distilled under reduced pressure. The crude product obtained was distilled under reduced pressure to obtain 38.9 g of the title compound.

reactant | 2,3-difluoro-6-trifluoromethylbenzonitrile | 50.9 g | FC1=C(C#N)C(=CC=C1F)C(F)(F)F | C8H2F5N
reactant | calcium chloride | 53.3 g | [Cl-].[Ca+2].[Cl-]
reactant | water | 240 ml | O | H2O
solvent | dimethyl sulfoxide | 240 ml | CS(=O)C | C2H6OS
product | 2-chloro-3-fluoro-6-trifluoromethylbenzonitrile | 38.9 g | ClC1=C(C#N)C(=CC=C1F)C(F)(F)F | C8H2ClF4N
